US06162927
4-Fluoro-3-methylaniline
To a solution of 20 g (129 mmol) of 2-fluoro-5-nitrotoluene in 400 mL of ethanol was added 2 g of 10% Pd--C. The mixture was shaken under 45 P.S.I. H2 until hydrogen uptake ceased. The catalyst was filtered away and washed with ethanol, then the combined filtrate and washings were concentrated to 15.2 g (94%) of a colorless oil.

reactant | 2-fluoro-5-nitrotoluene | 129 mmol, 20 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 4-Fluoro-3-methylaniline | FC1=C(C=C(N)C=C1)C | C7H8FN
